US07960376B2
To a solution of 2,2-dimethyl-5-(phenylsulfonyl)-2,3,4,5-tetrahydrobenzo[b][1,4]-thiazepine-7-carboxylic acid (480 mg, 1.272 mmol) in DCE (20 mL) was added thionyl chloride (2 mL, 27.4 mmol). The reaction was heated to 70° C. and stirred at that temperature for 2 hours. LCMS analysis of the reaction mixture indicated consumption of starting material. The solvent was removed under reduced pressure and 2,2-dimethyl-5-(phenylsulfonyl)-2,3,4,5-tetrahydrobenzo[b][1,4]thiazepine-7-carbonyl chloride (500 mg, 1.263 mmol, 99% yield) was used without further purification.

reactant | 2,2-dimethyl-5-(phenylsulfonyl)-2,3,4,5-tetrahydrobenzo[b][1,4]-thiazepine-7-carboxylic acid | 1.272 mmol, 480 mg | CC1(CCN(C2=C(S1)C=CC(=C2)C(=O)O)S(=O)(=O)C2=CC=CC=C2)C | C18H19NO4S2
reactant | thionyl chloride | 27.4 mmol, 2 mL | S(=O)(Cl)Cl | Cl2OS
solvent | DCE | 20 mL | ClCCCl | C2H4Cl2
product | 2,2-dimethyl-5-(phenylsulfonyl)-2,3,4,5-tetrahydrobenzo[b][1,4]thiazepine-7-carbonyl chloride | 1.263 mmol, 500 mg, 99% yield | CC1(CCN(C2=C(S1)C=CC(=C2)C(=O)Cl)S(=O)(=O)C2=CC=CC=C2)C | C18H18ClNO3S2
